US05212173
1 g of a sodium hydride suspension (50% strength) in paraffin oil was added at a temperature of 0° C. to a solution of 30 g of L-menthol in 300 ml of dichloromethane. A solution of 12.5 ml acrylonitrile in 50 ml dichloromethane was slowly added dropwise, and the reaction mixture was then stirred at room temperature for a further 5 hours. The reaction mixture was worked up by cautiously adding 10 ml of glacial acetic acid, followed by 200 ml of water, and then extracting the mixture with dichloromethane. The dichloromethane extract was dried over sodium sulfate, filtered and concentrated. After chromatographic purification of the residue on silica gel using n-hexane/dichloromethane as the eluent, 25.03 g of crude 2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)propionitrile were obtained and used for the next reaction step without further purification.

reactant | sodium hydride | 1 g | [H-].[Na+]
reactant | L-menthol | 30 g | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
reactant | acrylonitrile | 12.5 ml | C(C=C)#N | C3H3N
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)propionitrile | 25.03 g | C[C@H]1C[C@H]([C@@H](CC1)C(C)C)OC(C#N)C | C13H23NO
